US05084085
In a manner similar to Step C of Example 1, 8.10 g (0.0186 mole) of 1-[5-(4-amino-2-chlorophenoxy)-2,4-dichlorophenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one in 60 ml of concentrated sulfuric acid was reacted with a solution of 1.30 g (0.019 mole) of sodium nitrite in 10 ml of water. Subsequent reaction of this mixture with a refluxing solution of 150.0 g (0.60 mole) of copper (II) sulfate pentahydrate in 150 ml of water and 1.50 ml of xylene yielded 2.6 g of 1-[2,4-dichloro-5-(2-chloro-4-hydroxyphenoxy)phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one, compound 181 of Table 1.

reactant | 1-[5-(4-amino-2-chlorophenoxy)-2,4-dichlorophenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.0186 mole, 8.10 g | NC1=CC(=C(OC=2C(=CC(=C(C2)N2N=C(N(C2=O)C(F)F)C)Cl)Cl)C=C1)Cl | C16H11Cl3F2N4O2
reactant | sodium nitrite | 0.019 mole, 1.30 g | N(=O)[O-].[Na+]
solvent | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 ml | O | H2O
solvent | water | 150 ml | O | H2O
solvent | xylene | 1.50 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | copper (II) sulfate pentahydrate | 0.60 mole, 150.0 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 1-[2,4-dichloro-5-(2-chloro-4-hydroxyphenoxy)phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 2.6 g | ClC1=C(C=C(C(=C1)Cl)OC1=C(C=C(C=C1)O)Cl)N1N=C(N(C1=O)C(F)F)C | C16H10Cl3F2N3O3
